US07678929B2
1.4. Preparation of 7,8-difluorochroman-6-ol
81.2 ml (0.13 mol) of n-BuLi (15% soln. in hexane) are added at −70° C. to a soln. of 20.0 g (0.12 mol) of 7,8-difluorochroman in 400 ml of THF. After 3 h at this temperature, 14.4 ml (0.13 mol) of trimethyl borate are added dropwise, and the batch is warmed to room temperature. 30 ml of dilute acetic acid (about 30%) are added, and 30 ml of aq. hydrogen peroxide soln. (35%) are carefully added to the batch. When the addition is complete, the mixture is stirred at 20° C. for 17 h. Water is added, and the batch is acidified using HCl. The solution is extracted a number of times with MTBE, and the combined organic phases are washed successively with water, sat. sodium chloride soln. and ammonium iron(II) sulfate soln. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is purified by column chromatography (SiO2, n-heptane:MTBE=2:1).

reactant | n-BuLi | 0.13 mol, 81.2 ml | [Li]CCCC
reactant | 7,8-difluorochroman | 0.12 mol, 20.0 g | FC1=CC=C2CCCOC2=C1F | C9H8F2O
reactant | trimethyl borate | 0.13 mol, 14.4 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 30 ml | OO | H2O2
reactant | HCl | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 7,8-difluorochroman-6-ol | FC1=C(C=C2CCCOC2=C1F)O | C9H8F2O2
